US07368448B2
4-{[2-(3-Chloro-4-fluoroihenyl)-2-piperazin-1-ylethoxy]methyl}-3-methoxy-2-naphthonitrile.
The requisite [4-(tert-butoxycarbonyl)piperazin-1-yl](3-chloro-4-fluorophenyl)acetic acid was synthesized using the following method. (3-Chloro-4-fluorophenyl)boronic acid (440 mg, 2.52 mmol), tert-butyl piperazine-1-carboxylate (469 mg, 2.52 mmol) and glyoxylic acid monohydrate (232 mg, 2.52 mmol) were reacted together in DCM (10 mL) at reflux overnight. The volatiles were removed under reduced pressure. Chromatography of the residue on SiO2 (0-10% MeOH:DCM) afforded the title compound (767 mg, 82%). MS m/z 373.1 (M+H)+, 317.1 (M+H-t-butyl). 1H NMR (300.1 MHz, DMSO) δ12.80 (s, 0.6H), 7.59(d, J=7.2 Hz, 1H), 7.42 (d, J=7.2 Hz, 2H), 4.09(s, 1H), 3.30 (s, 2H), 3.16 (s, 2H), 2.35 (m, 4H), 1.38 (s, 9H).

reactant | (3-Chloro-4-fluorophenyl)boronic acid | 2.52 mmol, 440 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | tert-butyl piperazine-1-carboxylate | 2.52 mmol, 469 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | glyoxylic acid monohydrate | 2.52 mmol, 232 mg | O.C(C=O)(=O)O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [4-(tert-butoxycarbonyl)piperazin-1-yl](3-chloro-4-fluorophenyl)acetic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=O)O)C1=CC(=C(C=C1)F)Cl | C17H22ClFN2O4
